US09260427B2
To a stirring solution of (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoic acid INT-27 (1.50 g, 3.10 mmol) in DMF (15 mL) were added tert-butyl D-alaninate (680.0 mg, 3.73 mmol) and Et3N (802.3 mg, 6.2 mmol). The reaction was stirred for 1 hour at 0° C. and then HATU (877.5 mg, 3.37 mmol) in 2 mL DMF was added. The reaction was stirred for 1 hour at 0° C. and then warmed to room temperature with stirring for 18 hours. The reaction solution was extracted with aqueous NaHCO3 (3×20 mL). The combined organics were dried over MgSO4 and evaporated. The crude product was purified by column chromatography (50%) EA in hexanes) to afford 1.44 g (76%) of tert-butyl ((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)-propanoyl)-D-alaninate INT-32 as a solid powder. LCMS-ESI (m/z) calculated for C31H37BrN4O4: 609.6. found 610.2 [M+H]+, tR=4.05 min. (Method 16). 1H NMR (400 MHz, DMSO) δ 9.03 (s, 2H), 8.49 (d, J=8.7 Hz, 1H), 8.41 (d, J=7.2 Hz, 1H), 8.24 (d, J=8.2 Hz, 2H), 7.73 (t, J=7.4 Hz, 2H), 7.54-7.37 (m, 4H), 4.85 (td, J=10.1, 4.6 Hz, 1H), 4.16 (t, J=7.2 Hz, 1H), 3.24-2.97 (m, 2H), 1.50-1.29 (m, 9H), 1.32-1.17 (m, 12H).

reactant | (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoic acid | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C24H24BrN3O3
reactant | tert-butyl D-alaninate | 3.73 mmol, 680.0 mg | N[C@H](C)C(=O)OC(C)(C)C | C7H15NO2
reactant | Et3N | 6.2 mmol, 802.3 mg | CCN(CC)CC | C6H15N
reactant | HATU | 3.37 mmol, 877.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl ((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)-propanoyl)-D-alaninate | 1.44 g, 76% | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C31H37BrN4O4
